US06984653B2
A suspension of 1-tert-butoxy-4-(4-iodobutyl)benzene (10.0 g), 2-formyl-1H-imidazole (3.47 g) and potassium carbonate (4.16 g) in DMF (100 ml) was stirred at 70° C. for 17 hr. The reaction mixture was combined with water and extracted with ethyl acetate. The extract was successively washed with water (3 times) and saturated brine, dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure to give crude 1-[4-(4-tert-butoxyphenyl)butyl]-1H-imidazole-2-carbaldehyde as a pale brown oil. Sodium borohydride (1.25 g) was added to a solution of the compound in methanol (200 ml) at 0° C., and the mixture was stirred at 0° C. for 1 hr. The reaction mixture was combined with water, concentrated and extracted with ethyl acetate. The extract was washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (Chromatorex, 100-200 mesh, Fuji silicia chemical) (eluent; hexane:ethyl acetate=1:3 to ethyl acetate) to give the titled compound (8.29 g) as a colorless amorphous form.

reactant | 1-tert-butoxy-4-(4-iodobutyl)benzene | 10.0 g | C(C)(C)(C)OC1=CC=C(C=C1)CCCCI | C14H21IO
reactant | 2-formyl-1H-imidazole | 3.47 g | C(=O)C=1NC=CN1 | C4H4N2O
reactant | potassium carbonate | 4.16 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 1-[4-(4-tert-butoxyphenyl)butyl]-1H-imidazole-2-carbaldehyde | C(C)(C)(C)OC1=CC=C(C=C1)CCCCN1C(=NC=C1)C=O | C18H24N2O2
